US05700819
The procedure of Example 16-i) was repeated using 1,4-phenylene diacetic acid monoethyl ester (510 mg, 2.1 mmol) and 2-amino-3,4,6-trifluorothiophenol hydrochloride (2.0 g, 11.7 mmol) to obtain ethyl 4-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetate (270 mg, 35%) as a colorless powder.

reactant | 1,4-phenylene diacetic acid monoethyl ester | 2.1 mmol, 510 mg | C(C)OC(CC1=CC=C(C=C1)CC(=O)O)=O | C12H14O4
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 11.7 mmol, 2.0 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
product | ethyl 4-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetate | 270 mg, 35% | FC1=C(C=C(C2=C1N=C(S2)CC2=CC=C(C=C2)CC(=O)OCC)F)F | C18H14F3NO2S
